US08703768B2
Step 1: 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid methylamide
The product was obtained according to the method described in example 1, step 1 starting from 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid and methylamine hydrochloride as light yellow solid (250 mg, 64%).

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid | CN1N=C(C(=C1)[N+](=O)[O-])C(=O)O | C5H5N3O4
reactant | methylamine hydrochloride | 250 mg | Cl.CN
product | 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid methylamide | CNC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H8N4O3
